US06008230
A mixture of 8-amiino-3-bromoquinoline (330 mg), 3-methoxycarbonylbenzoic acid (267 mg), l-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (369 mg) and 1-hydroxybenzotriazole (300 mg) in dimethylformamide (5 ml) was stirred at ambient temperature overnight. To the mixture was added water, and the resulting precipitates were collected by filtration, washed with hot methanol and dried to give 3-bromo-8-[3-(methoxycarbonyl)benzoylamino]quinoline (390 mg) as pale yellow solid.

reactant | 8-amiino-3-bromoquinoline | 330 mg | N(C1=CC=CC=C1)C=1C=CC=C2C=C(C=NC12)Br | C15H11BrN2
reactant | 3-methoxycarbonylbenzoic acid | 267 mg | COC(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O4
reactant | l-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 369 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 300 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-bromo-8-[3-(methoxycarbonyl)benzoylamino]quinoline | 390 mg | BrC=1C=NC2=C(C=CC=C2C1)NC(C1=CC(=CC=C1)C(=O)OC)=O | C18H13BrN2O3
